US08058300B2
Step 4: 1-(4′-Acetylbiphenyl-4-yl)cyclopropanecarboxylic acid ethyl ester:
To 1-(biphenyl-4-yl)cyclopropanecarboxylic acid ethyl ester (9 g, 33.8 mmol) in CH2Cl2 (100 mL) was added aluminum chloride (9.4 g, 71 mmol) followed by acetyl chloride (5.5 g, 71 mmol). The solution was stirred at room temperature for 1.5 hours then slowly poured into water. The organic layer was separated and extracted 2 times with water. The organic layer was dried and evaporated to yield 11.3 g of the title compound.

reactant | 1-(biphenyl-4-yl)cyclopropanecarboxylic acid ethyl ester | 33.8 mmol, 9 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H18O2
reactant | aluminum chloride | 71 mmol, 9.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 71 mmol, 5.5 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-(4′-Acetylbiphenyl-4-yl)cyclopropanecarboxylic acid ethyl ester | 11.3 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C20H20O3
